US07652041B2
4-chloro-N,3-dimethylpyridine-2-carboxamide
To a solution of 4-chloro-N-methylpyridine-2-carboxamide (0.700 g, 4.12 mmol) in THF was added LDA (4.12 mL, 2M in THF, 8.24 mmol) dropwise at −78° C. under an atmosphere of argon. The mixture was allowed to stir for 90 min at −78° C. and then methyl iodide (1.51 mL, 24.71 mmol) was added. After stirring for 90 min, the solution was allowed to warm to 0° C. The reaction was quenched at 0° C. with sat. sodium hydrogen sulfite and extracted with EtOAc. The combined organic solutions were washed with water, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography to give the desired product (0.070 g, 23%).

reactant | 4-chloro-N-methylpyridine-2-carboxamide | 4.12 mmol, 0.700 g | ClC1=CC(=NC=C1)C(=O)NC | C7H7ClN2O
reactant | LDA | 8.24 mmol, 2M, 4.12 mL | [Li+].CC(C)[N-]C(C)C
reactant | methyl iodide | 24.71 mmol, 1.51 mL | CI | CH3I
solvent | THF | C1CCOC1 | C4H8O
product | 4-chloro-N,3-dimethylpyridine-2-carboxamide | 0.070 g, 23% | ClC1=C(C(=NC=C1)C(=O)NC)C | C8H9ClN2O
